US03966736
A mixture of 6,11-dihydro-11-[(dimethylamino)acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione (0.12 mole) and ethyl carbazate (1.2 mole) is heated in an oil bath preheated to 195°-205° C. using a take-off condenser (45 ml. is removed). The resulting solid is mixed with methylene chloride-water and the suspension is filtered. The filtrate is separated into layers, and the organic layer is washed with water, then brine solution and dried over anhydrous magnesium sulfate. The solvent is then evaporated and the resulting residue is repeatedly crystallized from methylene chloride to give 2,9-dihydro-9-[(dimethyl-amino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]-benzodiazepin-3-one.

reactant | 6,11-dihydro-11-[(dimethylamino)acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione | 0.12 mole | CN(C)CC(=O)N1C2=C(C(NC3=C1C=CC=C3)=S)C=CC=N2 | C16H16N4OS
reactant | ethyl carbazate | 1.2 mole | C(NN)(=O)OCC | C3H8N2O2
product | 2,9-dihydro-9-[(dimethyl-amino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]-benzodiazepin-3-one | CN(C)CC(=O)N1C2=C(C=3N(C4=C1C=CC=C4)C(NN3)=O)C=CC=N2 | C17H16N6O2
